US04665206
5,6-Dimethoxy-benzo[b]thiophene-2-carbonitrile (2.0 g) was suspended in dry toluene (40 ml) under an atmosphere of nitrogen. The reaction mixture was cooled to -5° C. and treated dropwise with a solution of diisobutylaluminium hydride in toluene (1.5M, 13 ml). After 30 minutes the solution was treated with methanol (5 ml) then poured into hydrochloric acid (1M, 200 ml) and stirred for 15 minutes. The resultant solution was extracted into dichloromethane (4×100 ml) then the organic extracts were combined, washed with brine, dried over magnesium sulphate and evaporated to dryness. The orange residue (1.6 g) was crystallised from dichloromethane:ether to give 5,6-dimethoxy-benzo[b]thiophene-2-carboxaldehyde as a white solid, m.p. 155°-156° C.

reactant | 5,6-Dimethoxy-benzo[b]thiophene-2-carbonitrile | 2.0 g | COC1=CC2=C(SC(=C2)C#N)C=C1OC | C11H9NO2S
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 1M, 200 ml | Cl | ClH
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.5M, 13 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-dimethoxy-benzo[b]thiophene-2-carboxaldehyde | COC1=CC2=C(SC(=C2)C=O)C=C1OC | C11H10O3S
